US08492549B2
C-[1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidin-3-yl]methylamine
To a suspension of LiAlH4 (0.62 g, 16.30 mmol) in dry THF (15 ml) was added 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-piperidine-3-carboxylic acid amide (0.45 g, 01.63 mmol) in dry THF (5 ml). The reaction mixture was heated under microwaves at 66° C. for 1 h. Water was slowly added and the mixture extracted with EtOAc (3×20 ml). The combined organic phases were dried (Na2SO4), filtered and the filtrate was evaporated to give the desired product, which was purified by column chromatography (DCM/MeOH, 98:2).

reactant | LiAlH4 | 16.30 mmol, 0.62 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-piperidine-3-carboxylic acid amide | 0.45 g | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)C(=O)N | C15H20N2O3
reactant | Water | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | C-[1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidin-3-yl]methylamine | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)CN | C15H22N2O2
